US07714009B2
2-Morpholin-4-yl-N,N-dipropyl-1,3-benzothiazol-7-amine
To 0.022 g (0.094 mmol) of 2-morpholin-4-yl-1,3-benzothiazol-7-amine and 40 μL (0.56 mmol) of propionaldehyde in 2 mL of dichloroethane was added one drop of glacial acetic acid and 0.064 g (0.30 mmol) of sodium triacetoxyborohydride. The mixture was heated to 50° C. for 5 h and concentrated in vacuo. The crude solid was purified by flash chromatography eluting with a 17% ethyl acetate/hexanes mixture to give 0.009 g (30%) of the title compound as a light golden colored oil.

reactant | 2-morpholin-4-yl-1,3-benzothiazol-7-amine | 0.094 mmol, 0.022 g | N1(CCOCC1)C=1SC2=C(N1)C=CC=C2N | C11H13N3OS
reactant | propionaldehyde | 0.56 mmol, 40 μL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.30 mmol, 0.064 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | 2-Morpholin-4-yl-N,N-dipropyl-1,3-benzothiazol-7-amine | 0.009 g, 30% | N1(CCOCC1)C=1SC2=C(N1)C=CC=C2N(CCC)CCC | C17H25N3OS
